US05668291
2,2'-Dithiobis[N-[2-(1-methylethyl)phenyl]benzamide]
This compound was prepared according to the general method of Example 90 using 2,2'-dithiobisbenzoyl chloride (2.00 g, 5.83 mmol) in 50 mL of dichloromethane and 2-isopropylaniline (1.60 g, 11.6 mmol) in 13 mL of pyridine. The crude product was recrystallized twice from acetonitrile-DMF to yield 0.45 g of the title compound, mp 235°-237° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 5.83 mmol, 2.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 2-isopropylaniline | 11.6 mmol, 1.60 g | C(C)(C)C1=C(N)C=CC=C1 | C9H13N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | pyridine | 13 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-[2-(1-methylethyl)phenyl]benzamide] | 0.45 g | CC(C)C1=C(C=CC=C1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=C(C=CC=C2)C(C)C)C=CC=C1)=O | C32H32N2O2S2
